US06589970B2
Step 5: 1-Benzyl-1H-indole-3-carboxylic acid [5-bromo-6-(1H-tetrazol-5-ylmethoxy)-naphthalen-2-ylmethyl]-methyl-amide.
A mixture of 1-benzyl-1H-indole-3-carboxylic acid (5-bromo-6-cyanomethoxy-naphthalen-2-ylmethyl)-methyl-amide (0.7725 g, 1.44 mmol), prepared in the previous step, sodium azide (0.28 g, 4.3 mmol) and ammonium chloride (0.23 g, 4.3 mmol) in 15 mL DMF was stirred under nitrogen for 4 h at 100° C. The reaction was diluted with water, made basic with 1N NaOH, and extracted five times with ethyl acetate. The ethyl acetate layer was acidified with 1N HCl and the solvent was removed under reduced pressure to give 0.133 g of the desired compound as an off-white solid. The aqueous layer was acidified with 1N HCl. The solution sat at room temperature for 18 h (overnight). A solid had precipitated from solution and was collected by filtration, rinsed with water, and dried under reduced pressure to give the title compound (0.4962 g, 60%) as an off white solid, mp 197-198° C.

reactant | 1-benzyl-1H-indole-3-carboxylic acid (5-bromo-6-cyanomethoxy-naphthalen-2-ylmethyl)-methyl-amide | 1.44 mmol, 0.7725 g | BrC1=C2C=CC(=CC2=CC=C1OCC#N)CN(C(=O)C1=CN(C2=CC=CC=C12)CC1=CC=CC=C1)C | C30H24BrN3O2
reactant | sodium azide | 4.3 mmol, 0.28 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 4.3 mmol, 0.23 g | [Cl-].[NH4+]
reactant | NaOH | 1N | [OH-].[Na+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-Benzyl-1H-indole-3-carboxylic acid [5-bromo-6-(1H-tetrazol-5-ylmethoxy)-naphthalen-2-ylmethyl]-methyl-amide | 0.133 g | BrC1=C2C=CC(=CC2=CC=C1OCC1=NN=NN1)CN(C(=O)C1=CN(C2=CC=CC=C12)CC1=CC=CC=C1)C | C30H25BrN6O2
